US09340538B2
Step D: Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(3-cyano-1H-1,2,4-triazol-1-yl)-1,4-dihydropyrimidine-5-carboxylate
Ethyl 4-(2-bromo-4-fluorophenyl)-2-(3-cyano-1H-1,2,4-triazol-1-yl)-6-methyl-1,4-dihydropyrimidine-5-carboxylate (0.35 g, 0.8 mmol) was reacted with NBS (0.14 g, 0.81 mmol) in chloroform (15 mL) according to the procedure as described in Example 1, Step B to give the title compound as pale yellow oil (0.33 g, 80%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-2-(3-cyano-1H-1,2,4-triazol-1-yl)-6-methyl-1,4-dihydropyrimidine-5-carboxylate | 0.8 mmol, 0.35 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)C)N1N=C(N=C1)C#N | C17H14BrFN6O2
reactant | NBS | 0.81 mmol, 0.14 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(3-cyano-1H-1,2,4-triazol-1-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.33 g, 80% | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)N1N=C(N=C1)C#N | C17H13Br2FN6O2
